US05914402
Preparation of 1-(2-methylphenyl)-4-oxo-6-methyl-2,3,4,5-tetrahydropyrrolo[3,2-c]quinolin
4-Oxo-6-methyl-2,3-dihydrofuro[3,2-c]quinoline (201 mg, 1.0 mmol) was dissolved in 10 ml of diethylene glycol in a pressure tube and 2-methylaniline (267 μl, 2.5 mmol) was added under nitrogen. The reaction mixture was heated at 250° C. for 15 hours. The reaction mixture was diluted with 20 ml of saline and the aqueous layer was extracted with methylene chloride (15 ml×3). After washing with water (15 ml×3), the organic layer was dried with anhydrous magnesium sulfate and filtered, and concentrated under reduced pressure. The residue was purified with ethyl acetate as eluent by silica gel chromatography to obtain 237 mg of a desired compound as solid in 82 % of yield.

reactant | 4-Oxo-6-methyl-2,3-dihydrofuro[3,2-c]quinoline | 1.0 mmol, 201 mg | O=C1N=C2C(=CC=CC2=C2C1CCO2)C | C12H11NO2
reactant | 2-methylaniline | 2.5 mmol, 267 μl | CC1=C(N)C=CC=C1 | C7H9N
solvent | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
product | 1-(2-methylphenyl)-4-oxo-6-methyl-2,3,4,5-tetrahydropyrrolo[3,2-c]quinolin | 237 mg | CC1=C(C=CC=C1)N1CCC=2C(NC=3C(=CC=CC3C21)C)=O | C19H18N2O
